US04925975
A teflon vessel was charged with 75% aqueous solution of CF3SO3H used in Example 1, and K2CO3 (free fluorine 31 ppm, free chlorine 18 ppm) was put into the solution such that the reaction between the acid and the carbonate proceeded under acidic conditions and terminated while pH of the reaction liquid was 2. Then the reaction liquid was dried in the same manner as in Example 1 to thereby obtain a white powder of CF3SO3K.

reactant | CF3SO3H | C(F)(F)(F)S(=O)(=O)O | CHF3O3S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | carbonate | C([O-])([O-])=O
product | CF3SO3K | C(F)(F)(F)S(=O)(=O)O[K] | InChI=1S/CHF3O3S.K/c2-1(3,4)8(5,6)7;/h(H,5,6,7);/q;+1/p-1
